* Пилообразный генератор на одном транзисторе

Vcc 1 0 DC 12
R1 1 2 10k
C1 2 3 100n
R2 3 4 10k
Q1 4 5 0 Q_npn
D1 5 0 diode
R3 2 0 1k

.model Q_npn NPN (IS=1e-16 BF=100 VAF=100 IKF=0.1 ISE=1e-16 NE=1.5 BR=1 VAR=100 IKR=0.1 ISC=1e-16 NC=1.5 RB=10 RC=1 RE=0.1 CJE=1p MJE=0.33 VJE=0.75 CJC=1p MJC=0.33 VJC=0.75 TF=0.1n TR=10n)
.model diode D (IS=1e-14 N=1 RS=0.001 CJO=0 TT=0 BV=1e6 IBV=1e-14)

* Анализ
.tran 0.1ms 1ms 0 100u
.print tran v(4)

.END